US04304775
The reaction of hydrazine with 3-chloro-6-(4-pyridinyl)pyridazine to produce 3-hydrazino-6-(4-pyridinyl)-pyridazine is carried out by heating the reactants at about 60° l C. to 100° C. in a suitable solvent, preferably but optionally under an inert atmosphere. The reaction is preferably run at about 75° C. to 85° C. and is conveniently and preferably run by heating the reactants in refluxing isopropyl alcohol, preferably under nitrogen. Other suitable solvents include dioxane, ethanol, 2-methoxyethanol, or the like. Optionally, the reaction can be run in the absence of a solvent.

reactant | hydrazine | NN | H4N2
reactant | 3-chloro-6-(4-pyridinyl)pyridazine | ClC=1N=NC(=CC1)C1=CC=NC=C1 | C9H6ClN3
product | 3-hydrazino-6-(4-pyridinyl)-pyridazine | N(N)C=1N=NC(=CC1)C1=CC=NC=C1 | C9H9N5
